US06825188B2
d) (±)-8-[3-[(1,4,5,6-Tetrahydropyrimidin-2-yl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
A mixture of methyl (±)-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.36 g, 0.94 mmol), 4 M HCl in dioxane (0.25 mL, 1 mmol), 10% palladium on charcoal (0.24 g, 0.24 mmol), and MeOH (5 mL) was stirred under a balloon of hydrogen. After 18 hr, the mixture was filtered and the filtrate was concentrated. The residue was partitioned between EtOAc and aqueous K2CO3. A solid precipitated, which was collected by filtration and dried to give the title compound as a white solid: MS m/e 375.4 (M+H)+. Anal. Calcd for C19H26N4O4.2.5 H2O: C, 54.40; H, 7.45; N, 13.35. Found: C, 54.68; H, 7.12; N, 13.39.

reactant | methyl (±)-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.94 mmol, 0.36 g | N1=C(N=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C20H24N4O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1 mmol, 0.25 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.24 mmol, 0.24 g | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | (±)-8-[3-[(1,4,5,6-Tetrahydropyrimidin-2-yl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | N1C(=NCCC1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)O)C=C1 | C19H26N4O4
